US09227973B2
Step C: Methyl 3-(2-(2-methoxy-2-oxoethoxy)-2-phenylethyl)picolinate
A stream of CO gas was bubbled through a mixture of methyl 2-(2-(2-bromopyridin-3-yl)-1-phenylethoxy)acetate (6.5 g, 18 mmol), sodium acetate (4.6 g, 55 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (3.0 g, 3.7 mmol) in anhydrous methanol (650 mL) at 70° C. for 4 h. The reaction mixture was cooled to 23° C. and concentrated. The residue was dissolved ethyl acetate (200 mL) and filtered through Celite®. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel eluting with 40% ethyl acetate in petroleum ether to give the title compound. MS: m/z=330.2 (M+1).

reactant | methyl 2-(2-(2-bromopyridin-3-yl)-1-phenylethoxy)acetate | 18 mmol, 6.5 g | BrC1=NC=CC=C1CC(OCC(=O)OC)C1=CC=CC=C1 | C16H16BrNO3
reactant | sodium acetate | 55 mmol, 4.6 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 650 mL | CO | CH4O
product | Methyl 3-(2-(2-methoxy-2-oxoethoxy)-2-phenylethyl)picolinate | COC(COC(CC=1C(=NC=CC1)C(=O)OC)C1=CC=CC=C1)=O | C18H19NO5
